US07105533B2
The 4-hydroxy-3-methylbenzonitrile (5 g, 33.5 mmol), N-phenyltrifluoromethanesulfonimide (12.0 g, 33.5 mmol) and cesium carbonate (10.9 g, 33.5 mmol) were dissolved in acetonitrile (50 mL) and DMF (5 mL), and the solution was stirred at rt. After 12 h, the reaction mixture was diluted with diethyl ether (100 mL) and was washed successively with saturated aqueous solutions of sodium carbonate (2×100 mL) and brine (100 mL). The organic layer was dried (MgSO4) and concentrated to afford 4-cyano-2-methoxyphenyl trifluoromethanesulfonate.

reactant | 4-hydroxy-3-methylbenzonitrile | 33.5 mmol, 5 g | OC1=C(C=C(C#N)C=C1)C | C8H7NO
reactant | N-phenyltrifluoromethanesulfonimide | 33.5 mmol, 12.0 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | cesium carbonate | 33.5 mmol, 10.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-cyano-2-methoxyphenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C#N)OC)(F)F | C9H6F3NO4S
